US09034866B2
10-bromo-9-fluoro-3-(trifluoromethyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide was reacted with (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol via General Procedure E to afford 38 mg (46%) of (R)-9-fluoro-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-3-(trifluoromethyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide.

reactant | 10-bromo-9-fluoro-3-(trifluoromethyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)C(F)(F)F)C1)F | C15H10BrF4N3O
reactant | (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol | CC1=CC(=NO1)[C@@](C)(C#C)O | C8H9NO2
product | (R)-9-fluoro-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-3-(trifluoromethyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | 38 mg, 46% | FC1=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)C(F)(F)F)C=C1C#C[C@](C)(C1=NOC(=C1)C)O | C23H18F4N4O3
